US08470820B2
Step 1: 3-amino-6-cyclopropylpyrazine-2-carboxylic acid methyl ester
To a suspension of 3-amino-6-bromopyrazine-2-carboxylic acid methyl ester (17.8 g, 76.7 mmol), cyclopropylboronic acid (8.57 g, 99.7 mmol), potassium phosphate (57.0 g, 268 mmol) and tricyclohexylphosphine (2.15 g, 7.67 mmol) in toluene (445 ml) and water (22 ml) was added palladium(II) acetate (0.86 g, 3.84 mmol). The reaction mixture was heated to 100° C. and stirred for 20 h. Water (200 ml) was added, the organic layer was washed with water and brine and the aqueous layer was back-extracted with ethyl acetate. The combined organic phases were dried and the solvent was evaporated. The product was obtained after silica gel chromatography using a heptane/ethyl acetate gradient as yellow solid (1.69 g, 11.4%).

reactant | 3-amino-6-bromopyrazine-2-carboxylic acid methyl ester | 76.7 mmol, 17.8 g | COC(=O)C1=NC(=CN=C1N)Br | C6H6BrN3O2
reactant | cyclopropylboronic acid | 99.7 mmol, 8.57 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 268 mmol, 57.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 7.67 mmol, 2.15 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 445 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 22 ml | O | H2O
catalyst | palladium(II) acetate | 3.84 mmol, 0.86 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | 200 ml | O | H2O
solvent | heptane ethyl acetate | 1.69 g | CCCCCCC.C(C)(=O)OCC
product | 3-amino-6-cyclopropylpyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1N)C1CC1 | C9H11N3O2
